US07220862B2
(±)-3-(7-Methyl-1H-indazol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3yl)-piperidine-1-carbonyl]-amino}-propionic acid
A suspension of (±)-3-(7-methyl-1H-indazol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid methyl ester (240.0 mg, 0.489 mmol) in 1:1 tetrahydrofuran/methanol (20 mL) at room temperature was treated with a solution of lithium hydroxide (140.5 mg, 7 equiv) in water (10 mL). Within 1 min, the mixture became homogeneous and it was left to stand at 4° C. overnight. The solvents were evaporated at ca. 30° C. and the pH was adjusted to ca. 1 with 1N hydrochloric acid. The resulting white suspension was stored at 4° C. for several hours and the product was collected by filtration, washed with a small amount of water, and dried in vacuo (169.0 mg, 73%). Solid sodium chloride was added to the filtrate resulting in precipitation of more product (5.2 mg, total yield 75%). 1H-NMR (CD3OD, 500 MHz) δ 1.2–1.7 (4H, m), 2.58 (3H, s), 2.5–3.2 (4H, m), 3.35 (2H, m), 4.15 (2H, m), 4.36 (1H, m), 4.60 (1H, m), 6.79 (1H, d), 6.96 (1H, t), 7.18 (3H, m), 7.49 (1H, s), 8.00 (1H, s). Mass spec.: 477.13 (MH)+.

reactant | (±)-3-(7-methyl-1H-indazol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid methyl ester | 0.489 mmol, 240.0 mg | COC(C(CC=1C=C2C=NNC2=C(C1)C)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C26H30N6O4
reactant | tetrahydrofuran methanol | 20 mL | O1CCCC1.CO
reactant | lithium hydroxide | 140.5 mg, 7 equiv | [OH-].[Li+]
solvent | water | 10 mL | O | H2O
product | (±)-3-(7-Methyl-1H-indazol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3yl)-piperidine-1-carbonyl]-amino}-propionic acid | yield 75% | CC=1C=C(C=C2C=NNC12)CC(C(=O)O)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C25H28N6O4
